US06531477B1
To a stirred solution of 146 mg (0.42 mmol) of 5-amino-3-cyclopropyl-1-(2,4,6-trichlorophenyl)pyrazole-4-carboxamide in 6 mL of absolute ethanol was added 533 mg (2.53 mmol) of ethyl 3-hydroxy-4-methoxyphenylacetate followed by 1.91 mL (5.1 mmol) of 2.66 M sodium ethoxide in ethanol. The solution was stirred 18 h at reflux, and the heating mantle was then removed. The reaction was treated with 5 mL of 10% aq. HOAc, cooled to ambient temperature, and filtered. The filtrate was washed with 6 mL of 1:1 water-methanol then 6 mL of 1:1 ether-hexanes. The off-white solid was briefly air-dried to give 46 mg (22%) of 1-(2,4,6-trichlorophenyl)-3-cyclopropyl-6-(3-hydroxy-4-methoxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one. Mass Spec.: 489 (M−H)−.

reactant | 5-amino-3-cyclopropyl-1-(2,4,6-trichlorophenyl)pyrazole-4-carboxamide | 0.42 mmol, 146 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C1CC1)C(=O)N | C13H11Cl3N4O
reactant | ethyl 3-hydroxy-4-methoxyphenylacetate | 2.53 mmol, 533 mg | OC=1C=C(C=CC1OC)CC(=O)OCC | C11H14O4
reactant | sodium ethoxide | 5.1 mmol, 2.66 M, 1.91 mL | [O-]CC.[Na+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 1-(2,4,6-trichlorophenyl)-3-cyclopropyl-6-(3-hydroxy-4-methoxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one | 46 mg, 22% | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC(=C(C=C2)OC)O)C2CC2 | C22H17Cl3N4O3
